US07196114B2
a) 3-(tert-Butoxycarbonylamino)thiophene-2-carboxylic hydrazide
0.4 g of hydrazine hydrate is added to a solution of 1.3 g of methyl 3-(tert-butoxycarbonylamino)thiophene-2-carboxylate in 10 ml of ethanol and the mixture is heated to reflux for 5 hours. After the volatile fractions had been removed under reduced pressure at 40° C., the remaining oil was purified by column chromatography (silica gel, eluent: methylene chloride:methanol=95:5).

reactant | hydrazine hydrate | 0.4 g | O.NN
reactant | methyl 3-(tert-butoxycarbonylamino)thiophene-2-carboxylate | 1.3 g | C(C)(C)(C)OC(=O)NC1=C(SC=C1)C(=O)OC | C11H15NO4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(tert-Butoxycarbonylamino)thiophene-2-carboxylic hydrazide | C(C)(C)(C)OC(=O)NC1=C(SC=C1)C(=O)NN | C10H15N3O3S
